US08541457B2
Synthesis of 2-(4-Cyanobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 4-cyanobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 23% yield; m.p. 256-258° C.; 1H NMR (DMSO-d6, 300 MHz) δ 8.64 (t, J=5.7 Hz, 1H), 8.19 (d, J=8.2 Hz, 2H), 7.99 (d, J=8.2 Hz, 2H), 7.49-7.18 (m, 5H), 4.37 (d, J=5.7 Hz, 2H), 2.51 (s, 3H); MS (ES+) m/z 377.2 (M+1).

reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(4-Cyanobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 23% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=C(C=C1)C#N)=O)C | C20H16N4O2S
